US08685969B2
9-(2-Methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyrido[4,3-b]indole-6-carboxamide
A mixture of 9-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide (10 mg, 0.022 mmol) and activated manganese dioxide (19.34 mg, 0.222 mmol) in butyl acetate (0.5 mL) was heated on an oil bath at 110° C. for 5.25 h, then at 90-100° C. for 2.5 days, then at 125° C. for 20 h. The mixture was cooled to room temperature, diluted with methanol, filtered and concentrated under vacuum. The residue was purified by preparative HPLC. The effluent containing the desired product was concentrated under vacuum to provide a fine aqueous suspension. This was extracted three times with EtOAc, and the combined organic phases were dried and concentrated to provide the desired product as an off-white solid (3.5 mg, 33% yield). LCMS (M+H)+ m/z 446.2. 1H NMR (400 MHz, methanol-d4) δ 8.31-8.47 (3.6 H, m), 8.06-8.16 (1.4 H, m), 7.87-7.96 (1 H, m), 7.76-7.87 (1 H, m), 7.55-7.70 (5 H, m), 7.24-7.36 (1 H, m), 1.90 (3 H, 2s).

reactant | 9-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide | 0.022 mmol, 10 mg | CC1=C(C=CC=C1N1C=NC2=CC=CC=C2C1=O)C1=C2C3=C(NC2=C(C=C1)C(=O)N)CCNC3 | C27H23N5O2
solvent | butyl acetate | 0.5 mL | C(C)(=O)OCCCC | C6H12O2
solvent | methanol | CO | CH4O
catalyst | manganese dioxide | 0.222 mmol, 19.34 mg | [O-2].[O-2].[Mn+4]
product | 9-(2-Methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyrido[4,3-b]indole-6-carboxamide | 3.5 mg, 33% yield | CC1=C(C=CC=C1N1C=NC2=CC=CC=C2C1=O)C1=C2C3=C(NC2=C(C=C1)C(=O)N)C=CN=C3 | C27H19N5O2
